US07612067B2
C. {5-Bromo-4-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-oxazol-2-yl}-dimethyl-amine.
67 mg of 3-(2,5-Dibromo-oxazol-4-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.15 mmol), 146 mg of cesium carbonate (0.45 mmol) and 3.0 ml of dimethylamine 2.0M in THF (6 mmol) are placed into a 4 ml of reaction vial and the vial is capped with a Teflon cap. The reaction vial is heated at 130° C. overnight. The reaction mixture is concentrated and applied onto a silica-gel chromatography column (Hexane:AcOE t=3:1) to give 53 mg of the title compound (87%); mass spectrum (m/e): 406; 1H-NMR (CDCl3): 6.72 (s, 1H), 3.37 (m, 1H), 3.15 (s, 6H), 2.58 (s, 3H), 2.53 (s, 3H), 1.85 (m, 4H), 0.90 (t, 6H, J=7.2 Hz).

reactant | 3-(2,5-Dibromo-oxazol-4-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.15 mmol, 67 mg | BrC=1OC(=C(N1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)Br | C16H18Br2N4O
reactant | cesium carbonate | 0.45 mmol, 146 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylamine | 2.0M, 3.0 ml | CNC | C2H7N
reactant | THF | 6 mmol | C1CCOC1 | C4H8O
product | {5-Bromo-4-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-oxazol-2-yl}-dimethyl-amine | 53 mg, 87% | BrC1=C(N=C(O1)N(C)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C18H24BrN5O
